US09352049B2
To a solution of Paclitaxel (52.5 mg; 0.061 mmol) and imidazole (40.1 mg; 0.590 mmol) in 0.25 mL of dry DMF under nitrogen was added the crude benzyl 5-(chlorodimethylsilyl)pentanoate of undetermined titre. A total of 197 mg of crude silyl chloride was added in 4 portions along with an additional 12 mg portion of imidazole over a 29 hour period. After stirring for an additional 12 hours, the reaction mixture was concentrated under reduced pressure and the resulting crude material was purified by column chromatography (silica gel, 0-50% ethyl acetate in hexanes, 40 minute gradient) to give 33 mg (27%) of (2aR,4S,4aS,6R,9S,11S,12S,12bS)-9-(((2R,3S)-3-benzamido-2-hydroxy-3-phenylpropanoyl)oxy)-12-(benzoyloxy)-4-(((5-(benzyloxy)-5-oxopentyl)dimethylsilyl)oxy)-11-hydroxy-4a,8,13,13-tetramethyl-5-oxo-2a,3,4,4a,5,6,9,10,11,12,12a,12b-dodecahydro-1H-7,11-methanocyclodeca[3,4]benzo[1,2-b]oxete-6,12b-diyl diacetate as a white waxy solid. 1H NMR (500 MHz, CDCl3) δ 8.14-8.10 (m, 2H), 7.77-7.74 (m, 2H), 7.61 (dddd, J=1.3, 1.3, 7.4, 7.4 Hz, 1H), 7.52-7.46 (m, 5H), 7.43-7.38 (m, 4H), 7.36-7.29 (m, 6H), 7.07 (d, J=8.9 Hz, 1H), 6.38 (s, 1H), 6.17 (dd, J=9.6, 8.4 Hz, 1H), 5.80 (dd, J=9.0, 2.4 Hz, 1H), 5.67 (d, J=7.0 Hz, 1H), 5.11 (s, 2H), 4.90 (d, J=9.4 Hz, 1H), 4.79 (s, 1H), 4.37 (dd, J=10.3, 6.9 Hz, 1H), 4.29 (d, J=8.4 Hz, 1H), 4.18 (d, J=8.4 Hz, 1H), 3.80 (d, J=6.9 Hz, 1H) 3.63 (s, 1H), 2.45 (ddd, J=14.4, 9.5, 6.8 Hz, 1H), 2.37 (s, 3H), 2.37-2.33 (m, 2H), 2.31 (dd, J=8.8, 5.4 Hz, 1H), 2.16 (s, 3H), 1.88-1.81 (m, 3H), 1.68 (s, 3H), 1.66-1.61 (m, 3H), 1.34-1.27 (m, 2H), 1.21 (s, 3H), 1.18 (s, 3H), 0.92-0.82 (m, 2H), 0.60-0.48 (m, 2H), 0.08 (s, 3H), 0.07 (s, 3H). MS (ESI+) m/z 1102.4 (M+1); HPLC 96% (AUC), tR 22.72 min (Method A).

reactant | Paclitaxel | 0.061 mmol, 52.5 mg | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | imidazole | 0.590 mmol, 40.1 mg | N1C=NC=C1 | C3H4N2
reactant | benzyl 5-(chlorodimethylsilyl)pentanoate | Cl[Si](CCCCC(=O)OCC1=CC=CC=C1)(C)C | C14H21ClO2Si
reactant | silyl chloride | 197 mg | [SiH3]Cl | ClH3Si
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | (2aR,4S,4aS,6R,9S,11S,12S,12bS)-9-(((2R,3S)-3-benzamido-2-hydroxy-3-phenylpropanoyl)oxy)-12-(benzoyloxy)-4-(((5-(benzyloxy)-5-oxopentyl)dimethylsilyl)oxy)-11-hydroxy-4a,8,13,13-tetramethyl-5-oxo-2a,3,4,4a,5,6,9,10,11,12,12a,12b-dodecahydro-1H-7,11-methanocyclodeca[3,4]benzo[1,2-b]oxete-6,12b-diyl diacetate | 33 mg, 27% | C(C)(=O)O[C@H]1C([C@]2(C([C@]3([C@H](OC3)C[C@@H]2O[Si](C)(C)CCCCC(=O)OCC2=CC=CC=C2)OC(C)=O)[C@@H]([C@@]2(C[C@@H](C(=C1C2(C)C)C)OC([C@@H]([C@H](C2=CC=CC=C2)NC(C2=CC=CC=C2)=O)O)=O)O)OC(C2=CC=CC=C2)=O)C)=O | C61H71NO16Si
